US07902394B2
(e) Ethyl 3-{3-[(1S)-1,2-dihydroxyethyl]-4,5-difluorophenyl}propanoate
A solution of AD-mix-α (66.0 g), t-BuOH (340 mL), and H2O (380 mL) was stirred until no solid was observed and then cooled to 0° C. Ethyl 3-(3-ethenyl-4,5-difluorophenyl)propanoate (16.3 g, 68.0 mmol) in t-BuOH (45 mL) and H2O (5 mL) was added and the reaction stirred at 0° C. for 6 h and then warmed to room temperature overnight. Sodium sulfite (84 g) was added and the reaction stirred at room temperature for 5 h. The reaction was diluted with H2O and extracted two times with CH2Cl2. The combined organic layers were dried over Na2SO4, filtered, and concentrated. Column chromatography (2-90% ethyl acetate:hexane) afforded the desired product (17.76 g, 95%).

reactant | AD-mix-α | 66.0 g | CC[C@@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | Ethyl 3-(3-ethenyl-4,5-difluorophenyl)propanoate | 68.0 mmol, 16.3 g | C(=C)C=1C=C(C=C(C1F)F)CCC(=O)OCC | C13H14F2O2
reactant | Sodium sulfite | 84 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | H2O | 5 mL | O | H2O
reactant | H2O | 380 mL | O | H2O
solvent | t-BuOH | 45 mL | CC(C)(C)O | C4H10O
solvent | t-BuOH | 340 mL | CC(C)(C)O | C4H10O
product | Ethyl 3-{3-[(1S)-1,2-dihydroxyethyl]-4,5-difluorophenyl}propanoate | 17.76 g, 95% | O[C@H](CO)C=1C=C(C=C(C1F)F)CCC(=O)OCC | C13H16F2O4
